US05264433
On the other hand, to a suspension of (3S)-3-amino-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl) methyl]-2H-1,4-benzodiazepin-2-one hydrochloride in dry dichloromethane (50 ml) was added dropwise triethylamine (7.45 ml). To the mixture was added dropwise a solution of 2-indolylcarbonyl chloride obtained above under stirring and cooling below 10° C. After stirring under the same conditions for 2 hours, the mixture was washed with hydrochloric acid, water and brine. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethanol to give (3S)-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-1-[(1 H-tetrazol-5-yl)-methyl]-2H-1,4-benzodiazepin-2-one (5.3 g).

reactant | (3S)-3-amino-1,3-dihydro-5-phenyl-1-[(1H-tetrazol-5-yl) methyl]-2H-1,4-benzodiazepin-2-one hydrochloride | Cl.N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC2=NN=NN2)=O
reactant | triethylamine | 7.45 ml | C(C)N(CC)CC | C6H15N
reactant | 2-indolylcarbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3S)-1,3-dihydro-3-(2-indolylcarbonylamino)-5-phenyl-1-[(1 H-tetrazol-5-yl)-methyl]-2H-1,4-benzodiazepin-2-one | 5.3 g | N1C(=CC2=CC=CC=C12)C(=O)N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC2=NN=NN2)=O | C26H20N8O2
